US05958942
v) Synthesis of 4,5-dihydro-4-[4-(2-trifluoromethane sulfonamidoethan-1-yl)phenyl]-3H-1,4,8b-triazaacenaphthylen-3-one-hydrochloride
To a solution of 85 mg (0.2 mmol) of 4,5-dihydro-4- [4-(2-trifluoromethanesulfonamidoethan-1-yl)phenyl]-3H-1,4,8b-triazaacenaphthylen-3-one in 5.0 ml of ethanol was added 0.04 ml (0.5 mmol) of 12N HCl. The mixture was stirred at room temperature, and concentrated under reduced pressure. The resulting precipitates were collected by filtration, and washed with a small volume of ethanol and ether to afford 64 mg of the desired compound (69.4%, a pale yellow solid).

reactant | 4,5-dihydro-4- [4-(2-trifluoromethanesulfonamidoethan-1-yl)phenyl]-3H-1,4,8b-triazaacenaphthylen-3-one | 0.2 mmol, 85 mg | FC(S(=O)(=O)NCCC1=CC=C(C=C1)N1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C18H15F3N4O3S
reactant | HCl | 0.5 mmol, 12N, 0.04 ml | Cl | ClH
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-[4-(2-trifluoromethane sulfonamidoethan-1-yl)phenyl]-3H-1,4,8b-triazaacenaphthylen-3-one-hydrochloride | 64 mg | Cl.FC(S(=O)(=O)NCCC1=CC=C(C=C1)N1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | InChI=1S/C18H15F3N4O3S.ClH/c19-18(20,21)29(27,28)23-9-8-12-4-6-13(7-5-12)24-11-14-2-1-3-16-22-10-15(17(24)26)25(14)16;/h1-7,10,23H,8-9,11H2;1H
